US05646173
A solution of 4.94 g of (RS)-2-(2-oxoethyl)-6-methoxy-3,3-dimethyl-1-indanone and 220 ml of p-toluenesulfonic acid in 200 ml of anhydrous toluene was heated on a water separator. A solution of 6.39 g of (R)-1-amino-2-propanol in 40 ml of anhydrous toluene was added dropwise to the boiling solution over a period of 5 minutes, during which the solvent was reduced to a volume of 40 ml. The cooled reaction mixture was purified by column chromatography on silica gel (diethyl ether/hexane 7:3). 3.42 g (60%) of (R)-1-(7-methoxy-4,4-dimethyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol were obtained as a brown oil.

reactant | (RS)-2-(2-oxoethyl)-6-methoxy-3,3-dimethyl-1-indanone | 4.94 g | O=CCC1C(C2=CC(=CC=C2C1(C)C)OC)=O | C14H16O3
reactant | p-toluenesulfonic acid | 220 ml | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | (R)-1-amino-2-propanol | 6.39 g | NC[C@@H](C)O | C3H9NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(7-methoxy-4,4-dimethyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 3.42 g, 60% | COC1=CC=C2C(C3=C(N(C=C3)C[C@@H](C)O)C2=C1)(C)C | C17H21NO2
